US07371751B2
A mixture of 10 g (51.2 mmol) 4-isothiocyanato-4-chloro benzene in 51 ml THF at 0° C. was treated with 5.15 g (64.02 mmol) formamidine hydrochloride and 64 ml 1N NaOH and allowed to stirr for 5 h after which the mixture was concentrated. 500 ml ethyl acetate and 100 ml water was added and the precipitate was filtered off, washed with water and dried to yield the intermediate 1-[1-Amino-methylidene]-3-(4-chloro-phenyl)-thiourea (MH+ 213.5) which was used without further purification. The thiourea was taken up in 50 ml THF and treated with 8.55 g (51.2 mmol) ethyl bromoacetate and 15.3 ml NEt3 and stirred at 50° C. for 18 h. The mixture was concentrated and extracted with CHCl3. The organic layer was washed with aqueous Na2CO3 (1M) and saturated NaCl solution, dried with MgSO4 and evaporated. The residue was purified with column chromatography on silica to yield 3.48 g (22%) of the title compound.

reactant | 4-isothiocyanato-4-chloro benzene | 51.2 mmol, 10 g | N(=C=S)C1(CC=CC=C1)Cl | C7H6ClNS
reactant | formamidine hydrochloride | 64.02 mmol, 5.15 g | Cl.C(=N)N
reactant | NaOH | 1N, 64 ml | [OH-].[Na+]
solvent | THF | 51 ml | C1CCOC1 | C4H8O
product | 1-[1-Amino-methylidene]-3-(4-chloro-phenyl)-thiourea | NC=NC(=S)NC1=CC=C(C=C1)Cl | C8H8ClN3S
